US07786132B2
(iv) 4-(5-Bromothiophen-2-yl)-5-methyl-2-(methylsulfonyl)pyrimidine
4-(5-Bromothiophen-2-yl)-5-methyl-2-(methylthio)pyrimidine (2.5 g, 3.3 mmol) dissolved in acetone (50 mL) was treated, via slow addition, with a solution of oxone (15.3 g, 24 mmol) in water (50 mL). The reaction was allowed to stir overnight at ambient temperature. The white precipitate that formed during the course of the reaction was collected by filtration and washed several times with water and then dried in a vacuum oven at 60° C. Yield=2.3 g. MS (M+H)+ 334.

reactant | 4-(5-Bromothiophen-2-yl)-5-methyl-2-(methylthio)pyrimidine | 3.3 mmol, 2.5 g | BrC1=CC=C(S1)C1=NC(=NC=C1C)SC | C10H9BrN2S2
reactant | oxone | 24 mmol, 15.3 g | OOS(=O)[O-].[K+]
reactant | acetone | 50 mL | CC(=O)C | C3H6O
solvent | water | 50 mL | O | H2O
product | 4-(5-Bromothiophen-2-yl)-5-methyl-2-(methylsulfonyl)pyrimidine | BrC1=CC=C(S1)C1=NC(=NC=C1C)S(=O)(=O)C | C10H9BrN2O2S2
